US08729274B2
cis-2-Benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.421 mmol, 150 mg) was dissolved in dioxane (2 ml) and water (0.7 ml). Cyclopropylboronic acid (0.631 mmol, 54.2 mg), 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) (0.021 mmol, 15.40 mg) and potassium carbonate (0.631 mmol, 87 mg) were added and the reaction mixture was irradiated at 160° C. in a microwave reactor for 30 minutes. The reaction mixture was diluted with DCM and water. The phases were separated and DCM extract was concentrated in vacuo to give a crude residue that was purified by silica column chromatography (eluting with 10% EtOAc in heptane) to afford cis-2-benzyl-6-cyclopropyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (75 mg), m/z: 318.2 [M+H]+.

reactant | cis-2-Benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.421 mmol, 150 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3Br)C | C20H22BrN
reactant | Cyclopropylboronic acid | 0.631 mmol, 54.2 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 0.631 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.7 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 0.021 mmol, 15.40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | cis-2-benzyl-6-cyclopropyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 75 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3C3CC3)C | C23H27N
